US06511993B1
2-Bromo-6-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}pyridine
Sodium hydride (1.62 g, 60% dispersion in mineral oil, 40.5 mmol) was added portionwise to an ice-cooled solution of (R)-(−)-1,2-O-isopropylideneglycerol (4.86 g, 36.8 mmol) in toluene (100 ml), and once addition was complete, the solution was allowed to warm to room temperature and stirred for 30 minutes. 2,6-Dibromopyridine (8.72 g, 36.8 mmol) was added, and the reaction heated under reflux for 5 hours. The cooled mixture was diluted with water, the layers separated, and the aqueous phase extracted with ether. The combined organic extracts were dried (MgSO4), filtered and evaporated in vacuo to afford the title compound as a yellow oil (quantitative).

reactant | Sodium hydride | 40.5 mmol, 1.62 g | [H-].[Na+]
reactant | (R)-(−)-1,2-O-isopropylideneglycerol | 36.8 mmol, 4.86 g | CC1(OC[C@H](O1)CO)C | C6H12O3
reactant | 2,6-Dibromopyridine | 36.8 mmol, 8.72 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-Bromo-6-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methoxy}pyridine | BrC1=NC(=CC=C1)OC[C@H]1OC(OC1)(C)C | C11H14BrNO3
